US04218476
2,4,6 -trimethoxybenzenesulphonylchloride
16.8 g (0.1 mole) 1,3,5 -trimethoxybenzene were added in portions to 33 ml chlorosulphonic acid, giving a clear pale-yellow solution. The solution was allowed to stand at about 20° C. for 2 hours and was then poured onto ice. The crystals formed were collected, washed with water, taken up in CHCl3, washed with water, and dried with sodium sulphate. The solvent was removed in vacuum, giving 15 g of the crude title compound. The crude product was dissolved in a minimum of hot CHCl3 and di-isopropylether was added. After cooling, white crystals of title compound (9 g) were collected; m.p. 134°-136° C.

reactant | 1,3,5 -trimethoxybenzene | 0.1 mole, 16.8 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | chlorosulphonic acid | 33 ml | ClS(=O)(=O)O | ClHO3S
product | 2,4,6 -trimethoxybenzenesulphonylchloride | 15 g | COC1=C(C(=CC(=C1)OC)OC)S(=O)(=O)Cl | C9H11ClO5S
